### PR TITLE
One semantics

### PR DESCRIPTION
**Pull request by bgregoir**
This PR remove the big step semantics and keep only the semantics based on itree.

### CODE REVIEW

File: proofs/lang/psem_facts.v [hunk 1]
```diff
@@ -175,578 +175,99 @@ Proof.
...
-Lemma mem_equiv_for_cons : sem_Ind_for_cons P ev Pc Pfor.
+Lemma mem_equiv_syscall xs o es : Pr (Csyscall xs o es).
 Proof.
-  move => ???????? /write_var_memP A _ B _ C; red.
-  rewrite A; etransitivity; [ exact: B | exact: C ].
+  move=> ii s1 s2 /=; rewrite /sem_syscall /fexec_syscall; t_xrbindP.
+  move=> ??? [[??]?] /= h [<-].
+  have [ho1 ho2]:= exec_syscallS h.
+  move=> /[dup] /write_lvals_validw /= ho3 /write_lvals_stack_stable /= ?.
+  split; [rewrite ho1 | move=> ???; rewrite ho2] => //; exact: ho3.
```
Comment (vbgl) [inline proofs/lang/psem_facts.v]: This is undoing a recent fix: https://github.com/jasmin-lang/jasmin/commit/cc6ef57ba7b7c2601dcf21a18ed3d291cf06d6cb#diff-2e96110a0a0b1bc0cf089a910f6b4f57a4c3c517ffcc1e0cb0e7f4511afb5d7d

Comment (bgregoir) [reply proofs/lang/psem_facts.v]: I think it is fixed now.

**Review by vbgl — DISMISSED** [review]

**Review by vbgl — DISMISSED** [review]

**Review by vbgl — DISMISSED** [review]

**Review by vbgl — APPROVED** [review]
